US08735417B2
To a solution of N-(3-amino-5-bromophenyl)acetamide (3.25 g, 14.19 mmol) and 2-chloro-4-(trifluoromethyl)pyrimidine (2.054 mL, 17.03 mmol) in dioxane (8.5 mL) under nitrogen, was added pTsOH (2.70 g, 14.19 mmol). The reaction was stirred at 100° C. for 18 h, cooled to at room temperature. Solvent was removed under reduced pressure and the resultant residue was diluted with sat. NaH-CO3 (aq) and DCM. The organic was dried over sodium sulfate and was concentrated to dryness. Purified by flash chromatography (1:1 to 0:100 hexanes:ethyl acetate) to yield N-(3-bromo-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)acetamide (2.71 g, 7.22 mmol, 51%) as a beige powder. MS APCI: [M+H]m/z 377.0.

reactant | N-(3-amino-5-bromophenyl)acetamide | 14.19 mmol, 3.25 g | NC=1C=C(C=C(C1)Br)NC(C)=O | C8H9BrN2O
reactant | 2-chloro-4-(trifluoromethyl)pyrimidine | 17.03 mmol, 2.054 mL | ClC1=NC=CC(=N1)C(F)(F)F | C5H2ClF3N2
reactant | pTsOH | 14.19 mmol, 2.70 g | CC=1C=CC(=CC1)S(=O)(=O)O | C7H8O3S
solvent | dioxane | 8.5 mL | O1CCOCC1 | C4H8O2
product | N-(3-bromo-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)acetamide | 7.22 mmol, 2.71 g, 51% | BrC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)NC(C)=O | C13H10BrF3N4O
